US04137273
3,7-Diethylnona-2,6-dien-1-ol (4.8 g.) is dissolved in 40 ml. of ether, cooled to -50° and 2.44 g. of phosphorus tribromide in 5 ml. of ether is added over 20 minutes. The reaction mixture is stirred for two hours, poured into ice and extracted with ether. The ethereal extracts are combined, washed with 10% sodium carbonate, water and saturated sodium chloride, dried over sodium sulfate and the solvent concentrated to yield 1-bromo-3,7-diethylnona-2,6-diene.

reactant | 3,7-Diethylnona-2,6-dien-1-ol | 4.8 g | C(C)C(=CCO)CCC=C(CC)CC | C13H24O
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | ether | CCOCC | C4H10O
product | 1-bromo-3,7-diethylnona-2,6-diene | BrCC=C(CCC=C(CC)CC)CC | C13H23Br
